US07279499B2
B. Preparation of (3-bromo-2,5-bis-methoxymethoxy-phenyl)-methanol
Treat a solution of 3-bromo-2,5-bis-methoxymethoxy benzaldehyde (9.40 g, 30.6 mmol) in EtOH (200 mL) with sodium borohydride (1.16 g, 30.6 mmol). Stir the reaction for 2 hours at ambient temperature and pour into H2O (200 mL) and saturated NaHCO3 (100 mL). Extract the H2O with EtOAc (3×100 mL) and wash the combined extracts with H2O (100 mL) and brine (50 mL) then dry (MgSO4) and filter. Concentrate the filtrate to afford the title product (9.31 g, 99%) as an oil. 1H NMR (CDCl3) δ 3.20 (t, J=6.9 Hz, 1H), 3.47 (s, 3H), 3.64 (s, 3H), 4.60 (d, J=6.9 Hz, 2H), 5.08 (s, 2H), 5.13 (s, 2H), 7.02 (d, J=2.9 Hz, 1H), 7.23 (d, J=2.9 Hz, 1H).

reactant | 3-bromo-2,5-bis-methoxymethoxy benzaldehyde | 30.6 mmol, 9.40 g | BrC=1C(=C(C=O)C=C(C1)OCOC)OCOC | C11H13BrO5
reactant | sodium borohydride | 30.6 mmol, 1.16 g | [BH4-].[Na+]
reactant | H2O | 200 mL | O | H2O
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | EtOH | 200 mL | CCO | C2H6O
product | (3-bromo-2,5-bis-methoxymethoxy-phenyl)-methanol | 9.31 g, 99% | BrC=1C(=C(C=C(C1)OCOC)CO)OCOC | C11H15BrO5
